US07645771B2
To a solution of methyl 2-chloro-3-(chlorosulfonyl)benzoate (608 mg, 2.26 mmol) and K2CO3 (770 mg, 5.6 mmol) in 10 mL benzene was added cyclopropylamine (0.78 mL, 11.2 mmol). Purification of the product provided methyl 2-chloro-3-[(cyclopropylamino)sulfonyl]benzoate (355 mg, 54%) as a solid. 1H NMR (400 MHz, CDCl3), δ 8.28 (dd, 1H, J=7.9, 1.7 Hz), 7.90 (dd, 1H, J=7.8, 1.7 Hz), 7.48 (t, 1H, J=7.8 Hz), 5.63 (s, 1H), 3.93 (s, 3H), 2.17 (m, 1H), 0.65-0.58 (m, 2H), 0.57-0.50 (m, 2H); ESI-MS 290 (M+H), 312 (M+Na). Methyl 2-chloro-3-[(cyclopropylamino)sulfonyl]benzoate was hydrolyzed using aqueous NaOH to provide 2-chloro-3-[(cyclopropylamino)sulfonyl]benzoic acid as a solid, which was used without further purification. ESI-MS 276 (M+H), 298 (M+Na).

reactant | Methyl 2-chloro-3-[(cyclopropylamino)sulfonyl]benzoate | ClC1=C(C(=O)OC)C=CC=C1S(=O)(=O)NC1CC1 | C11H12ClNO4S
reactant | NaOH | [OH-].[Na+]
product | 2-chloro-3-[(cyclopropylamino)sulfonyl]benzoic acid | ClC1=C(C(=O)O)C=CC=C1S(=O)(=O)NC1CC1 | C10H10ClNO4S
